US08563575B2
A mixture of 1-ethyl-7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.090 g) and 2N HCl in EtOH (5.0 ml) was stirred at 60° C. for 10 h. After cooling to room temperature, the solvent was removed. The residue was recrystallized from EtOH—AcOEt to give 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride (0.040 g).

reactant | 1-ethyl-7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.090 g | C(C)N1C(N(C2=NC=CC(=C21)C)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1)=O | C28H33N5O3Si
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride | 0.040 g | Cl.Cl.N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C(N(C=1C2=NC=CC1C)CC)=O | InChI=1S/C22H19N5O2.2ClH/c1-3-26-19-14(2)12-13-23-20(19)27(22(26)28)15-8-10-16(11-9-15)29-21-24-17-6-4-5-7-18(17)25-21;;/h4-13H,3H2,1-2H3,(H,24,25);2*1H
